US05900475
Preparation of (3-chloropropyl)didecylmethylammonium bromide
A two-liter, 3-necked, round-bottomed flask equipped with air condensers and a magnetic stirring plate was charged with N,N-didecylmethylamine (65.49 grams, 0.21 moles), 1-bromo-3-chloropropane (33.06 grams, 0.21 moles) and methanol (250 mL). Reaction was maintained at 65° C. for six days. Methanol was removed by rotary evaporation under reduced pressure to yield an oil. To the oil was added hexane (200 mL) causing a white solid to slowly form. The solvent was decanted off from the mixture. The remaining solid dried overnight under vacuum. Yield 81.67 grams 0.17 moles, 82%).

reactant | N,N-didecylmethylamine | 0.21 moles, 65.49 grams | C(CCCCCCCCC)N(CCCCCCCCCC)C | C21H45N
reactant | 1-bromo-3-chloropropane | 0.21 moles, 33.06 grams | BrCCCCl | C3H6BrCl
reactant | methanol | 250 mL | CO | CH4O
solvent | hexane | 200 mL | CCCCCC | C6H14
product | (3-chloropropyl)didecylmethylammonium bromide | [Br-].ClCCC[N+](C)(CCCCCCCCCC)CCCCCCCCCC | InChI=1S/C24H51ClN.BrH/c1-4-6-8-10-12-14-16-18-22-26(3,24-20-21-25)23-19-17-15-13-11-9-7-5-2;/h4-24H2,1-3H3;1H/q+1;/p-1
